US07452993B2
3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid methyl ester (30 mg, 83 μmol) was dissolved in pyrrolidine (0.35 ml, 4.15 mmol) and the mixture was stirred at 90° C. for 16 h. The mixture was then concentrated and the crude product purified by flash silica gel chromatography using a gradient of 10% v/v of methanol in ethyl acetate to afford {3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-pyrrolidin-1-yl-methanone as a yellow solid (22 mg, 55 μmol, 67% yield). 1H-NMR (500 MHz, d6-MeOH) δ8.82 (d, 1H), 8.39 (d, 1H), 7.83 (t, 1H), 7.79 (td, 1H), 7.66 (dd, 1H), 7.55-7.59 (m, 2H), 7.48 (ddd, 1H), 7.20 (d, 1H), 7.11 (dt, 1H), 3.88 (s, 3H), 3.63 (t, 2H), 3.52 (t, 2H), 2.02 (m, 2H), 1.92 (m, 2H). MS: m/z 399 [MH+].

reactant | 3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-benzoic acid methyl ester | 83 μmol, 30 mg | COC(C1=CC(=CC=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)=O | C21H17N3O3
reactant | pyrrolidine | 4.15 mmol, 0.35 ml | N1CCCC1 | C4H9N
product | {3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-pyrrolidin-1-yl-methanone | 55 μmol, 22 mg, 67% yield | COC1=C(C=CC=C1)C1=NNC2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCCC2 | C24H22N4O2
